US08217032B2
1-(2-{4-[6-Benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane
Add sodium hydride (324 mg, 8.0 mmol) into a solution of 4-[6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenol (1.18 g, 2.7 mmol) in DMF (10 mL) and stir for 20 minutes at room temperature. Add 2-(hexamethyleneimino)ethyl chloride hydrogen chloride (1.07 g, 5.4 mmol) and stir at room temperature for 12 hours. Add H2O (10 mL) and diethyl ether (100 mL). Separate layers and wash the aqueous layer with diethyl ether (2×50 mL). Combine organic layers, dry with magnesium sulfate and concentrate in vacuo. Purify the residue over silica gel, eluting the material with a step gradient of methanol/dichloromethane (0% to 10%), to obtain 1.0 g of the title compound (66%): mass spectrum (ion spray) m/z=562.3 (M+H).

reactant | sodium hydride | 8.0 mmol, 324 mg | [H-].[Na+]
reactant | 4-[6-benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenol | 2.7 mmol, 1.18 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)O)C1=CC=C(C=C1)F | C29H21FO3
reactant | 2-(hexamethyleneimino)ethyl chloride hydrogen chloride | 5.4 mmol, 1.07 g | Cl.N(CCCCCCCl)=CCCl
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-(2-{4-[6-Benzyloxy-2-(4-fluoro-phenyl)-naphthalen-1-yloxy]-phenoxy}-ethyl)-azepane | 1.0 g, 66% | C(C1=CC=CC=C1)OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(OCCN2CCCCCC2)C=C1)C1=CC=C(C=C1)F | C37H36FNO3
